US09447030B2
To a solution of 1-(2-nitro-5-(thiophen-2-yl)phenyl)-3-(piperidin-4-ylmethyl)urea (0.045 g, 0.12 mmol, 1.0 equiv.) in methanol was added Pd/C (0.02 g, 0.02 mmol, 0.16 equiv.). The reaction mixture was stirred at room temperature under H2 balloon pressure for 1 h. The reaction was filtered through celite and concentrated under reduced pressure. The crude solid was washed with ether to obtain of pure 1-(2-Amino-5-(thiophen-2-yl)phenyl)-3-((1-methylpiperidin-4-yl)methyl)urea (0.03 g, 67% yield). ESI+ MS: m/z 345 ([M]+). 1H NMR (500 MHz, d6-DMSO): δ 7.66 (d, J=1.5 Hz, 1H), 7.56 (s, 1H), 7.33 (d, J=5.0 Hz, 1H), 7.17 (d, J=3.0 Hz, 1H), 7.10 (dd, J=3.5 Hz, 1H), 7.03 (t, J=4.0 Hz, 1H), 6.71 (d, J=7.5 Hz, 1H), 6.27 (t, J=5.5 Hz, 1H), 4.88 (bs, 2H), 2.98 (t, J=5.5 Hz, 2H), 2.77 (d, J=11.0 Hz, 2H), 2.16 (s, 3H), 1.85 (m, 2H), 1.63 (d, J=4.5 Hz, 2H), 1.36-1.33 (m, 1H), 1.20-1.13 (m, 3H).

reactant | 1-(2-nitro-5-(thiophen-2-yl)phenyl)-3-(piperidin-4-ylmethyl)urea | 0.12 mmol, 0.045 g, 1.0 equiv. | [N+](=O)([O-])C1=C(C=C(C=C1)C=1SC=CC1)NC(=O)NCC1CCNCC1 | C17H20N4O3S
reactant | methanol | CO | CH4O
catalyst | Pd/C | 0.02 mmol, 0.02 g, 0.16 equiv. | [Pd] | Pd
product | 1-(2-Amino-5-(thiophen-2-yl)phenyl)-3-((1-methylpiperidin-4-yl)methyl)urea | 0.03 g, 67% yield | NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)NCC1CCN(CC1)C | C18H24N4OS
